US04064256
A solution of 1.0 parts of 5-[8-allyl-5-(3-methyl-n-butoxy)-4H-1-benzopyran-2-yl]tetrazole in 19 parts of ethanol was hydrogenated overnight at room temperature and pressure using 0.02 parts of 5% palladium on charcoal as catalyst. The reaction mixture was filtered and the solvent removed by evaporation. Cystallisation of the residue from ethanol gave 0.52 parts of 5-[5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-yl]tetrazole, m.p. 202°-204° C.

reactant | 5-[8-allyl-5-(3-methyl-n-butoxy)-4H-1-benzopyran-2-yl]tetrazole | C(C=C)C1=CC=C(C=2CC=C(OC21)C2=NN=NN2)OCCC(C)C | C18H22N4O2
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-[5-(3-methyl-n-butoxy)-8-n-propyl-4-oxo-4H-1-benzopyran-2-yl]tetrazole | CC(CCOC1=CC=C(C2=C1C(C=C(O2)C2=NN=NN2)=O)CCC)C | C18H22N4O3
